US06117841
[S-(R*,R*)]-2-[(4-tert-Butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide
2-(Methyl-amino)-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide (0.5 mmol) was dissolved in THF (10 mL) and treated with 4-tert-butyl-benzyl bromide (0.75 mmol) and diisopropylethylamine (1.5 mmol). The reaction was stirred at 50° C. for 15 hours. Then the reaction mixture was allowed to cool to room temperature and concentrated to dryness. The residue was chromatographed on silica gel eluting with a gradient of 25% EtOAc/Hexanes to give the title compound with the yield of 40%.

reactant | 2-(Methyl-amino)-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide | 0.5 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C(CC(C)C)NC)=O | C27H39N3O3
reactant | 4-tert-butyl-benzyl bromide | 0.75 mmol | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | diisopropylethylamine | 1.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[(4-tert-Butyl-benzyl)-methyl-amino]-4-methyl-pentanoic acid [2-(4-benzyloxy-phenyl)-1-tert-butylcarbamoyl-ethyl]-amide | yield of 40% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C(NC(C)(C)C)=O)NC(C(CC(C)C)N(C)CC1=CC=C(C=C1)C(C)(C)C)=O | C38H53N3O3
